US04599207
208 g of isobutyl methanephosphonite are heated to 80° C. under nitrogen. 0.5 g of tert.-butyl perpivalate is added to the hot reaction solution, and 63.9 g of acrolein cyanohydrin acetate and 2.5 g of tert.-butyl perpivalate are added dropwise within 2.3 hours. The mixture is stirred at 80° C. for 5 min, and 133.9 g of isobutyl methanephosphonite are distilled out under high vacuum (recovery: 91.3%; purity: 97%). 134.6 g of isobutyl (3-acetoxy-3-cyanopropyl)methylphosphinate (yield: 97.8%, purity 95%) are obtained.

reactant | isobutyl methanephosphonite | 208 g | CP(OCC(C)C)[O-]
reactant | acrolein cyanohydrin acetate | 63.9 g | CC(=O)OC(C=C)C#N | C6H7NO2
product | isobutyl (3-acetoxy-3-cyanopropyl)methylphosphinate | 134.6 g, yield: 97.8% | C(C)(=O)OC(CCP(OCC(C)C)(=O)C)C#N | C11H20NO4P
